US08912331B2
Step 2: 7-Fluoroquinoline-6-carbonitrile
To a solution of 6-bromo-7-fluoroquinoline (4.90 g, 22.12 mmol) in dimethylacetamide (38 ml), potassium ferrocyanide (2.65 g, 4.86 mmol) and sodium carbonate (2.34 g, 22.12 mmol). The system was purged with nitrogen for 15 min. Palladium acetate (0.248 g, 1.10 mmol) was added under nitrogen and heated to 120° C. After 3 h, the reaction mixture was filtered through celite, washed with ethyl acetate. The organic layer was washed with brine solution, dried over sodium sulphate and concentrated. The crude product was purified by column chromatography with ethyl acetate: petroleum ether to afford the title compound as a white solid (3.2 g, 86%). 1H-NMR (δ ppm. CDCl3, 400 MHz): 9.05 (dd, J=4.1, 2.9 Hz, 1H), 8.25 (m, 2H), 7.90 (d, J=10.0 Hz, 1H), 7.53 (dd, J=8.3, 4.3 Hz, 1H).

reactant | 6-bromo-7-fluoroquinoline | 22.12 mmol, 4.90 g | BrC=1C=C2C=CC=NC2=CC1F | C9H5BrFN
reactant | sodium carbonate | 22.12 mmol, 2.34 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylacetamide | 38 ml | CC(=O)N(C)C | C4H9NO
catalyst | potassium ferrocyanide | 4.86 mmol, 2.65 g | [Fe-4](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+].[K+]
catalyst | Palladium acetate | 1.10 mmol, 0.248 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-Fluoroquinoline-6-carbonitrile | 3.2 g, 86% | FC1=C(C=C2C=CC=NC2=C1)C#N | C10H5FN2
